US08492559B2
Stage 3: Methyl 4-chloro-1,2-dimethyl-1H-indole-3-carboxylate
Methyl 4-chloro-2-methyl-1H-indole-3-carboxylate (13.45 mmol, 1.0 equiv.) was dissolved in DMF (7 ml) and added at 0° C. to a suspension of NaH (26.90 mmol, 2.0 equiv.) in DMF (13 ml). The mixture was then stirred for 30 min. Methyl iodide (20.17 mmol, 1.5 equiv.) was added dropwise at 0° C. and stirring was carried out for 2 h at 25° C. The reaction mixture was diluted with NH4Cl solution (20 ml) and extracted with ethyl acetate (3×50 ml). The combined organic phases were washed with water and sat. NaCl solution (in each case 50 ml), dried over Na2SO4 and concentrated to dryness under reduced pressure. Yield: 72%

reactant | Methyl 4-chloro-2-methyl-1H-indole-3-carboxylate | 13.45 mmol, 1.0 equiv. | ClC1=C2C(=C(NC2=CC=C1)C)C(=O)OC | C11H10ClNO2
reactant | NaH | 26.90 mmol, 2.0 equiv. | [H-].[Na+]
reactant | Methyl iodide | 20.17 mmol, 1.5 equiv. | CI | CH3I
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
solvent | NH4Cl | 20 ml | [NH4+].[Cl-]
product | Methyl 4-chloro-1,2-dimethyl-1H-indole-3-carboxylate | Yield: 72% | ClC1=C2C(=C(N(C2=CC=C1)C)C)C(=O)OC | C12H12ClNO2
